US06653330B2
In the same manner as that described in Example 2(1) a reaction was carried out using commercially available 4-chloroaniline (354 mg, 2.8 mmol), triethylamine (0.7 ml, 5.0 mmol), 4-formylbenzoyl chloride (700 mg, 4.2 mmol) and 4-(dimethylamino)pyridine (a catalytic amount) and the reaction mixture was treated according to a similar procedure to that described in Example 2(1) to afford 4′-chloro-4-formylbenzanilide (489 mg, yield 68%) as a white solid which was recrystallized from ethyl acetate-hexane to give white powdery crystals.

reactant | 4-chloroaniline | 2.8 mmol, 354 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | triethylamine | 5.0 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 4-formylbenzoyl chloride | 4.2 mmol, 700 mg | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4′-chloro-4-formylbenzanilide | 489 mg, yield 68% | ClC1=CC=C(NC(C2=CC=C(C=C2)C=O)=O)C=C1 | C14H10ClNO2
